US07973169B2
24) N-(7-Oxo-4,5,6,7-tetrahydro-benzothiazol-2-yl)-2-phenyl-butyramide
2-Amino-5,6-dihydro-4H-benzothiazol-7-one (34 mg, 0.20 mmol) and 2-phenyl-butyric acid (33 mg, 0.20 mmol) were dissolved in N,N-dimethylformamide (1 mL) containing triethylamine (84.1 μL, 0.600 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (84 mg, 0.22 mmol) was added and the solution was allowed to stir for 16 hours. The crude product was purified by reverse-phase preparative liquid chromatography (31 mg, 0.099 mmol, 49%). ESI-MS m/z calc. 314.1, found 315.3 (M+1)+ Retention time 2.90 minutes.

reactant | 2-Amino-5,6-dihydro-4H-benzothiazol-7-one | 0.20 mmol, 34 mg | NC=1SC2=C(N1)CCCC2=O | C7H8N2OS
reactant | 2-phenyl-butyric acid | 0.20 mmol, 33 mg | C1(=CC=CC=C1)C(C(=O)O)CC | C10H12O2
reactant | triethylamine | 0.600 mmol, 84.1 μL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.22 mmol, 84 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-(7-Oxo-4,5,6,7-tetrahydro-benzothiazol-2-yl)-2-phenyl-butyramide | O=C1CCCC=2N=C(SC21)NC(C(CC)C2=CC=CC=C2)=O | C17H18N2O2S
